US08609656B2
(S)-2,6-Diaminohexanoic acid (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)amide hydrochloride (Table 1, Compound No. 105)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and di-tert-butoxycarbonyl-L-lysine by using the same method as in Example 96.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | di-tert-butoxycarbonyl-L-lysine | C(C)(C)(C)OC(=O)N([C@@H](CCCCN)C(=O)O)C(=O)OC(C)(C)C | C16H30N2O6
product | (S)-2,6-Diaminohexanoic acid (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)amide hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC([C@H](CCCCN)N)=O)=O)C(F)(F)F | InChI=1S/C25H25ClF3N9O2.ClH/c26-18-9-6-15(11-17(18)25(27,28)29)36-24(40)35-14-4-7-16(8-5-14)38-13-34-20-21(32-12-33-22(20)38)37-23(39)19(31)3-1-2-10-30;/h4-9,11-13,19H,1-3,10,30-31H2,(H2,35,36,40)(H,32,33,37,39);1H/t19-;/m0./s1
